US08497281B2
(cis-2,3,4a,5,6,10b-Hexahydro-1H-benzo[f]quinolin-4-yl)-(2-methyl-1H-indol-5-yl)-methanone
The title compound is prepared from 2-methyl-1H-indole-5-carboxylic acid and cis-1,2,3,4,4a,5,6,10b-octahydro-benzo[f]quinoline following a procedure analogous to that described in Example 1 [2-(7-aza-1H-benzotriazol-1-yl)-1,1,3,3-tetramethyluronium hexa-fluorophosphate is used]. Yield: 46% of theory; LC (method 4): tR=2.03 min; Mass spectrum (ESI+): m/z=345 [M+H]+.

reactant | 2-methyl-1H-indole-5-carboxylic acid | CC=1NC2=CC=C(C=C2C1)C(=O)O | C10H9NO2
reactant | cis-1,2,3,4,4a,5,6,10b-octahydro-benzo[f]quinoline | C1CCN[C@H]2CCC3=C([C@@H]12)C=CC=C3 | C13H17N
reactant | 2-(7-aza-1H-benzotriazol-1-yl)-1,1,3,3-tetramethyluronium hexa-fluorophosphate | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C
product | (cis-2,3,4a,5,6,10b-Hexahydro-1H-benzo[f]quinolin-4-yl)-(2-methyl-1H-indol-5-yl)-methanone | Yield: 46% | C1CCN([C@H]2CCC3=C([C@@H]12)C=CC=C3)C(=O)C=3C=C1C=C(NC1=CC3)C | C23H24N2O
